US03931198
A mixture of 9.43 grams of 1-hydroxy-3,5-dimethylcyclohexane carboxylic acid ethyl ester with 4.38 grams of guanidine hydrochloride and 2.59 grams of potassium hydroxide pellets in 52 ml of ethanol is refluxed for 1 hour. The solution is cooled, diluted with 172 ml of water and brought to pH 7 with glacial acetic acid resulting in a white precipitate being formed. After refrigeration at 5° C for 3 hours, the crystals are filtered, washed with water and ether, and dried yielding 3.20 grams of 2-amino-7,9-dimethyl-1-oxa-3-aza-spiro[4,5]dec-2-en-4-one, having a melting point of 276°-81° C.

reactant | 1-hydroxy-3,5-dimethylcyclohexane carboxylic acid ethyl ester | 9.43 grams | C(C)OC(=O)C1(CC(CC(C1)C)C)O | C11H20O3
reactant | guanidine hydrochloride | 4.38 grams | Cl.NC(=N)N
reactant | potassium hydroxide | 2.59 grams | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 52 ml | C(C)O | C2H6O
solvent | water | 172 ml | O | H2O
product | 2-amino-7,9-dimethyl-1-oxa-3-aza-spiro[4,5]dec-2-en-4-one | 3.20 grams | NC=1OC2(C(N1)=O)CC(CC(C2)C)C | C10H16N2O2
